2162-08-21 08:48:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: intracranial hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Admitted to MICU.
   About 5:30a, somewhat less responsive (but 5:30a, and after receiving
   DPH load) --> CT unchanged
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   PPI, Dilantin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Flowsheet Data as of  [**2162-8-21**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 95 (71 - 103) bpm
   BP: 132/75(88) {86/47(58) - 141/79(95)} mmHg
   RR: 22 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
           1,852 mL
   PO:
           TF:
   IVF:
   1,226 mL
   Blood products:
   626 mL
   Total out:
                                                                      0 mL
                                                                    775 mL
   Urine:
   775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,077 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
   Fluid analysis / Other labs: Labs reviewed in OMR.  Esp notable for Plt
   125, Hct 30, BUN 95, Cr 2.0, INR 2.3, morning labs pending.
   Imaging: CT (7:34p):
   IMPRESSION:
   1. Multiple foci of bilateral subarachnoid hemorrhage, with interval
   worsening compared to prior scan, now also involving dependent portions
   of
   bilateral posterior ventricular horns. New right temporal
   intraparenchymal
   hemorrhage and possible left tentorial subdural hematoma.
   3. Left preseptal soft tissue swelling. Bilateral subcutaneous gas in
   the
   lateral temporal soft tissues, with no definite underlying fracture. If
   clinical concern for fracture, dedicated maxillofacial CT scan
   suggested.
   CT (~6a): "little change from 11 hrs prior in multicompartmental
   intracranial hemorrhage"
   Assessment and Plan
   87-year-old man with substantial cardiac history (CAD, Afib on
   warfarin, pacemaker vs. ICD) now presents with traumatic SAH.
   SUBARACHNOID HEMORRHAGE
   - received vitamin K, profiline, and FFP
   - neurosurgery following
   - prelim read of CT after about 11 hours was there was no change; will
   d/w neurosurg
   - BP is well controlled without specific therapy
   - continue dilantin prophylactically
   - will discuss with neurosurgery regarding best approach to monitoring
   and therpay
   SYNCOPE (POSSIBLE)
   - not completely clear if this was syncope or a mechanical fall but
   proceding under assumption that it was.  Certainly EKG and device
   suggests high risk.
   - echo today
   - telemetry
   - infectious workup
   - ask EP to interrogate device
   ARF vs. CKD
   - on darbepoeitin chronically, so suspect there is chronic kidney
   disease as well
   - will attempt to get old records
   CAD
   - hold on aspirin for now until SAH cleared
   AFIB
   - off anticoag for now
   Will attempt to get old records
   Other issues as per ICU team note.
   ICU Care
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-8-21**] 01:35 AM
   20 Gauge - [**2162-8-21**] 01:36 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status:
   Disposition : ICU
   Total time spent: 40 min

2162-08-23 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -cardiology was consulted regarding his weird bypass of AoV. They said:
   re afib (would bblock if HR >120, aiming for bp per neurosurg). ok to
   not be on coumadin for afib. Re bypass graft ask [**Hospital1 49**] why it was placed,
   but regardless, would not anticoagulate for now. Monitor for emboli to
   legs as this is where they would go from the conduit. also give lasix
   for chf.
   -cards wanted op report from [**Hospital1 **] which is now in his chart under osh
   records. the op procedure was left thoracotomy and left ventricular
   apex-to-descending aortic valve conduit.
   -started lopressor 12.5 tid for goal HR <120s and goal SBP 100-140,
   could titrate up prn or switch to carvedilol (his home med). I liked
   that lopressor was a little shorter acting for now.
   -neurosurg would like head CT in am before their rounds rather than
   this evening. will need to talk to neurosurg at some point soon about
   when to restart coumadin.
   -called micro lab to confirm they are testing sensitivities on
   enterococcus from urine, which they are
   -per daughter, pt on O2 at baseline and incontinent at home. may need
   to go to [**Hospital1 **] after discharge
   -restarted the following home meds: crestor 20 daily, iron, prilosec 20
   daily, colace 100 [**Hospital1 **], celexa 20 qam, neurontin 100 [**Hospital1 **], tums 500 [**Hospital1 **],
   vitamin 1 tab qam
   -did not restart these home meds: asa 81, K 10mgEq qam, 20mEq qpm,
   klonopin 0.25 qam, coumadin 6mg po qpm, coreg 3.125mg bd, lasix 120
   qam, 80 qpm, lisinopril 2.5mg po daily
   -held lasix today as pt urinating and sats excellent. may need to
   restart home lasix tomorrow.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2162-8-23**] 06:01 AM
   Infusions:
   Other ICU medications:
   Dilantin - [**2162-8-23**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-8-23**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 104 (88 - 127) bpm
   BP: 123/78(89) {101/49(62) - 151/121(127)} mmHg
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 64 kg (admission): 57.8 kg
             Total In:
                                                                  1,940 mL
                                                                    200 mL
   PO:
                                                                  1,200 mL
             TF:
   IVF:
                                                                    740 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,125 mL
                                                                    250 mL
   Urine:
                                                                  1,125 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    815 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   149 K/uL
   10.4 g/dL
   155 mg/dL
   1.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   60 mg/dL
   104 mEq/L
   144 mEq/L
   32.4 %
   10.5 K/uL
        [image002.jpg]
                             [**2162-8-21**]  08:03 AM
                             [**2162-8-21**]  03:11 PM
                             [**2162-8-22**]  06:00 AM
                             [**2162-8-23**]  03:37 AM
   WBC
   5.4
   7.9
   10.5
   Hct
   30.3
   30.9
   32.4
   Plt
   125
   130
   149
   Cr
   1.8
   1.3
   1.4
   TropT
   0.04
   0.04
   Glucose
   154
   117
   155
   Other labs: PT / PTT / INR:14.5/24.8/1.3, CK / CKMB /
   Troponin-T:70//0.04, Albumin:3.9 g/dL, Ca++:9.4 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.0 mg/dL
   .
   HEAD CT:
   Slight interval increase in size of intraparenchymal hemorrhage in the
   right
   temporoparietal region. Slight increase in the amount of blood layering
   dependently in the lateral ventricles. Otherwise, no interval change.
   Assessment and Plan
   87 year old male with known multiple medical problems (though unclear
   chronicity and level of debility) as well as on chronic anticoagulation
   for AF presenting after a fall today with subarachnoid hemorage.
   Patient remains neurologically intact but as exact mechanism of fall is
   unclear and the  the patient has signs of old CAD he has been admitted
   to medicine for work up and monitoring.
   1) Subarachnoid hemorrhage: Goal SBP's from 100 to 140 per neurosurgery
   and he is staying well there without any particular intervention.
   Coagulation reversed. Neurosurg following.
   -Bblocker for SBP>140 (as tachycardic, and ?in afib vs. MAT), fluids
   for SBP<100; gave fluids last night
   -continue dilantin, level is 16.1 ([**9-14**] is normal range); need repeat
   albumin to further determine level
   -CT head in AM showed some increase in SAH; repeat CT in PM showed very
   little change
   -touch base with neurosurgery to determine need for Q2 neurochecks
   -neurosurgery recs suggest no coumadin for at least 30 days; risk of
   embolus per month is low.  Needs follow up with Dr [**Last Name (STitle) 1703**]
   ([**Telephone/Fax (1) 8464**]) in 4 weeks, will need noncontrast head CT beforehand.
   .
   2)  Atrial fibrillation
 HRs 70s
 low 100s.
   -Consider beta blockade if HR > 120 but only if can maintain BP goals
   suggested by neurosurgery.
   -Low CHADS score (age and CHF)  so would not resume anti-coag until
   cleared to do  so by neurosurgery
   .
   3) Coagulopathy: Goal INR is 1.3 and currently at goal.
   -Continue to hold coumadin in setting of SAH
   .
   4) Syncope: ?syncopal episode and think patient's lack of memory likely
   due to concussion/head trauma not necessarily loss of consciousness.
   Family provided no additional info.
   -as per EP, no arrhythmic events of pacer
   -UA w/ enterococcus and pt symptomatic. Will start ampicillin
   -Echo subobtimal study- unclear extent of AS, severe LV hypokinesis;
   would consider repeating echo; consulting cardiology in light of echo
   results; should contact outpatient cardiologist regarding cardiac
   surgery
   5) Hypotension: Brief episode of hypotension to 80's in ED that
   responded well to small amount of IV fluids.  Currently appears
   euvolemic.
   -Monitor
   6) Hx CAD: No signs of active ischemia.  No ASA given bleeding risk and
   no BB given concern for BP in setting of bleed.
   -CE stable x 3 sets
   -severe LV hypokinesis- cardiology consult
   7) CKD?: Patient is on darbepoetin which raises suspicion of CKD.  Will
   attempt to obtain outside records to verify.  Also possible some
   element of prerenal given fluid responsive hypotension.
   -Trend Cr, avoid nephrotoxins
   8) FEN: Replete lytes PRN, NPO for now
   9) PPx: Pneumoboots, Oral PPI
   10) Code: Full
   11) Dispo: pending neuro stability
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-8-21**] 01:35 AM
   20 Gauge - [**2162-8-23**] 12:51 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: